US07741497B2
In a flask made of glass having an inner volume of 200 ml and equipped with a stirring device, a thermometer, a dropping funnel and a reflux condenser were charged 13.0 g (0.09 mol) of 2,2′-dichloroethyl ether, 35.9 g (0.26 mol) of anhydrous potassium carbonate, 1.3 g (7.8 mmol) of potassium iodide and 80 ml of N,N-dimethylformamide, and the temperature of the mixture was raised to 80° C. with stirring. Then, 20.0 g (0.15 mol) of methyl 3-oxopentanoate was gently added dropwise to the mixture, and the mixture was reacted at the same temperature for 7 hours. After completion of the reaction, to the reaction mixture were added 200 ml of water and 32.3 g (0.31 mol) of conc. hydrochloric acid to adjust a pH of the mixture to 4.5. Said reaction mixture was extracted three times with 200 ml of ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The obtained concentrate was purified by silica gel column chromatography (Eluent; hexane/ethyl acetate=3/1 (volume ratio)) to give 10.1 g (Isolation yield: 55%) of 4-propionyl-4-methoxycarbonyltetrahydropyran as a pale yellow liquid.

reactant | 2,2′-dichloroethyl ether | 0.09 mol, 13.0 g | C(CCl)OCCCl | C4H8Cl2O
reactant | potassium carbonate | 0.26 mol, 35.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 7.8 mmol, 1.3 g | [I-].[K+]
reactant | methyl 3-oxopentanoate | 0.15 mol, 20.0 g | O=C(CC(=O)OC)CC | C6H10O3
reactant | hydrochloric acid | 0.31 mol, 32.3 g | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 4-propionyl-4-methoxycarbonyltetrahydropyran | 10.1 g, yield: 55% | C(CC)(=O)C1(CCOCC1)C(=O)OC | C10H16O4
